US08802864B2
b) 4-[4-(1-benzofuran-5-yl)-2-chloro-6-fluorophenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one
To a microwave vial were added 4-(4-bromo-2-chloro-6-fluorophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (0.027 mmol), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-benzofuran (0.04 mmol), cesium carbonate (0.08 mmol), and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II)-dichloromethane adduct (0.0012 mmol). The mixture was purged with nitrogen and suspended in 1,4-dioxane (0.3 mL) and water (0.15 mL). The mixture was heated for 15 h at 100° C. Analysis by LCMS indicated desired product formation and consumption of starting material. The mixture was filtered through a syringe filter and purified by reverse phase HPLC (10-90% acetonitrile/water+0.1% TFA). The desired fractions were collected and added to a separatory funnel containing ethyl acetate. The aqueous phase was adjusted to pH˜6 with 1N aq HCl. The aqueous phase was extracted with ethyl acetate (3×), and the combined organics were washed with brine, dried over Na2SO4, and concentrated to afford the title product as an off-white solid and nearly equal mixture of atropisomeric diastereomers (7.0 mg, 54%). MS(ES)+ m/e 481.0 [M+H]+.

reactant | 4-(4-bromo-2-chloro-6-fluorophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.027 mmol | BrC1=CC(=C(C(=C1)F)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O)Cl | C17H17BrClFN4O2
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-benzofuran | 0.04 mmol | CC1(OB(OC1(C)C)C=1C=CC2=C(C=CO2)C1)C | C14H17BO3
reactant | cesium carbonate | 0.08 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane | 0.0012 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | 4-[4-(1-benzofuran-5-yl)-2-chloro-6-fluorophenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | O1C=CC2=C1C=CC(=C2)C2=CC(=C(C(=C2)F)N2C(NN=C2C[C@H]2CN(CC2)C(=O)C2CC2)=O)Cl | C25H22ClFN4O3
